US07812017B2
4-Bromo-1-[(4-methylphenyl)sulfonyl]-1H-indole
4-Bromoindole (1.24 g, 6.3 mmol), p-toluenesulfonyl chloride (1.32 g, 6.9 mmol) and tetrabutyl-ammonium hydrogen sulfate (42 mg, 0.1 mmol) was dissolved in DCM (50 mL). NaOH 2.5 M aq (6 mL, 15 mmol) was added and the mixture was stirred vigorously for 1 h. Diluted with water and DCM, collected the DCM phase and washed it twice with water, dried and concentrated to give the product as white crystalline material (2.07 g, 5.9 mmol). Yield 94%. MS (ESI+) for C15H12BrNO2S m/z 352 (M+H)+.

reactant | 4-Bromoindole | 6.3 mmol, 1.24 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | p-toluenesulfonyl chloride | 6.9 mmol, 1.32 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | NaOH | 2.5 M | [OH-].[Na+]
catalyst | tetrabutyl-ammonium hydrogen sulfate | 0.1 mmol, 42 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-Bromo-1-[(4-methylphenyl)sulfonyl]-1H-indole | 5.9 mmol, 2.07 g, Yield 94% | BrC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C15H12BrNO2S
